US06372736B1
2-Chloro-1,3-benzothiazole (503 mg) was added to a suspension of ethyl (2S)-2-piperidinecarboxylate (471 mg) [J.A.C.S. (1993), 115(22), 9925-9938], triethylamine hydrochloride (414 mg) and copper powder (38 mg) in xylene (5 ml). The reaction mixture was refluxed for 28 hours, after which time ethyl acetate (20 ml) was added to the cooled mixture and the solids filtered off. The organic layer was washed with water, dried over magnesium sulphate and the solvent removed under reduced pressure to afford ethyl (2S)-1-(1,3-benzothiazol-2-yl)-2-piperidinecarboxylate (705 mg) as a brown solid.

reactant | 2-Chloro-1,3-benzothiazole | 503 mg | ClC=1SC2=C(N1)C=CC=C2 | C7H4ClNS
reactant | ethyl (2S)-2-piperidinecarboxylate | 471 mg | N1[C@@H](CCCC1)C(=O)OCC | C8H15NO2
reactant | triethylamine hydrochloride | 414 mg | Cl.C(C)N(CC)CC
reactant | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
solvent | xylene | 5 ml | C=1(C(=CC=CC1)C)C | C8H10
catalyst | copper | 38 mg | [Cu] | Cu
product | ethyl (2S)-1-(1,3-benzothiazol-2-yl)-2-piperidinecarboxylate | 705 mg | S1C(=NC2=C1C=CC=C2)N2[C@@H](CCCC2)C(=O)OCC | C15H18N2O2S
